US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(3,4,5-trimethoxybenzoyl)-6-(tert.-butylamino)caproic acid and ethyl γ-(p-anisidino)butyrate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-[N-(3,4,5-trimethoxybenzoyl)-6-tert.-butylamino)hexanoyl]-4-(p-anisidino)butyric acid.

reactant | N-(3,4,5-trimethoxybenzoyl)-6-(tert.-butylamino)caproic acid | COC=1C=C(C(=O)N(CCCCCC(=O)O)C(C)(C)C)C=C(C1OC)OC | C20H31NO6
reactant | ethyl γ-(p-anisidino)butyrate | COC1=CC=C(C=C1)NCCCC(=O)OCC | C13H19NO3
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 4-(p-anisidino)butyric acid | COC1=CC=C(C=C1)NCCCC(=O)O | C11H15NO3
